US03962281
764 mg. of methyl 2-(p-methoxyphenyl)-1-methylthioethyl sulfoxide was dissolved in 6 ml. of ethanol, and with the addition of 1.03 ml. of ethyl orthoformate and 5 drops of concentrated sulfuric acid, the solution was stirred for 27 hours at room temperature. 10 ml. of water was added, and the reaction mixture was extracted with methylene chloride. The product was dried with anhydrous sodium sulfate, and concentrated at reduced pressure to give a diethyl acetal of p-methoxyphenylacetaldehyde. 5 ml. of ether was added to the acetal, and 20 ml. of 0.25 N dilute sulfuric acid was further added. The mixture was stirred for 12 hours at room temperature. The stirred mixture was then extracted with ether, and the ether layer was dried with anhydrous sodium sulfate, followed by concentration at reduced pressure. The residue was subjected to column chromatography to give 386 mg of p-methoxyphenylacetaldehyde as a colorless liquid. Yield 82%.

reactant | methyl 2-(p-methoxyphenyl)-1-methylthioethyl sulfoxide | COC1=CC=C(C=C1)CC(SC)S(=O)C | C11H16O2S2
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | p-methoxyphenylacetaldehyde | COC1=CC=C(C=C1)CC=O | C9H10O2
